US07700786B2
Hydrazine monohydrate (0.80 g, 20 mmol) was added to a solution of methyl 4-chlorobenzoylacetate (3.19 g, 15.0 mmol) in ethanol (40 ml) at 0° C., and the mixture was stirred at room temperature for 2 days. After completion of the reaction, a precipitated solid was filtered and washed with diethyl ether, to give a white solid of 5-(4-chlorophenyl)-3-hydroxypyrazole (2.02 g, yield: 55.1%). mp: 240-241° C.; 1H-NMR (DMSO-d6, DMSO, ppm): δ 5.92 (s, 1H), 7.47 (d, J=8.5 Hz, 2H), 7.70 (d, J=8.5 Hz, 2H), 9.30-10.60 (br s, 1H), 11.60-12.70 (br s, 1H).

reactant | Hydrazine monohydrate | 20 mmol, 0.80 g | O.NN
reactant | methyl 4-chlorobenzoylacetate | 15.0 mmol, 3.19 g | ClC1=CC=C(C(=O)CC(=O)OC)C=C1 | C10H9ClO3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-(4-chlorophenyl)-3-hydroxypyrazole | 2.02 g, yield: 55.1% | ClC1=CC=C(C=C1)C1=CC(=NN1)O | C9H7ClN2O
